US08211908B2
To a solution of 0.24 g of tert-butyl (1-benzyl-2-methylpiperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate in 3 mL of methanol, 90 μL of acetic acid and 0.32 g of 20% palladium hydroxide were added. The reaction mixture was stirred for 4 hours 30 minutes under a hydrogen atmosphere. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure to obtain 0.16 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(2-methylpiperidin-4-yl)carbamate as a yellow foam.

reactant | tert-butyl (1-benzyl-2-methylpiperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 0.24 g | C(C1=CC=CC=C1)N1C(CC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)C | C26H35N3O4
solvent | methanol | 3 mL | CO | CH4O
solvent | acetic acid | 90 μL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 0.32 g | [OH-].[Pd+2].[OH-]
product | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(2-methylpiperidin-4-yl)carbamate | 0.16 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CC(NCC2)C | C19H29N3O4
